US07399868B2
1-Quinolin-4-yl-1-(1-trityl-1H-imidazol-4-yl)-ethanol (Intermediate G3) (4.78 g, 9.93 mmol) in dichloromethane (100 mL) was treated with triethylamine (11.0 mL, 78.9 mmol) at 0° C. Methanesulfonyl chloride (MsCL) (2.3 mL, 29.7 mmol) was added via syringe and the mixture was stirred for 2 h. (see procedure found in Toshima, K et al J Amer. Chem. Soc. 1995 117, 10825; incorporated herein by reference). The mixture was subjected to a typical aqueous work-up. The crude material was purified by chromatography on silica gel with 2% NH3-MeOH: dichloromethane to give 4-[1-(1-trityl-1H-imidazol-4-yl)-vinyl]-quinoline (Intermediate G4) as a tan solid, 3.51 g (76%).

reactant | 1-Quinolin-4-yl-1-(1-trityl-1H-imidazol-4-yl)-ethanol | 9.93 mmol, 4.78 g | N1=CC=C(C2=CC=CC=C12)C(C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H27N3O
reactant | triethylamine | 78.9 mmol, 11.0 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 29.7 mmol, 2.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-[1-(1-trityl-1H-imidazol-4-yl)-vinyl]-quinoline | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(=C)C1=CC=NC2=CC=CC=C12 | C33H25N3
